US08044052B2
1-Bromo-3-fluoro-5-methoxybenzene
To a solution of 1-bromo-3,5-difluorobenzene (10 g, 0.052 mol) in dry DMF (300 mL) cooled to 0-5° C. was added sodium methoxide (5.60 g, 0.1036 mol) and the reaction mixture was stirred at RT for 24 h. The reaction mixture was extracted with ethyl acetate three times. The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness to give the title compound (7.5 g, 71%).

reactant | 1-bromo-3,5-difluorobenzene | 0.052 mol, 10 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | sodium methoxide | 0.1036 mol, 5.60 g | C[O-].[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-3-fluoro-5-methoxybenzene | 7.5 g, 71% | BrC1=CC(=CC(=C1)OC)F | C7H6BrFO
